US06403791B1
5-Amino-1-ethyl-1H-imidazole-4-carbonitrile
To a solution/suspension of 5-amino-1H-imidazole-4-carbonitrile (2.16 g) in tetrahydrofuran/N,N-dimethylformamide under an atmosphere of nitrogen was added potassium carbonate (3.3 g) and iodoethane (1.9 mL). The reaction mixture was stirred at room temperature for 60 hours, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 2-5% methanol in dichloromethane afforded the title compound as an off-white solid (0.60 g).

reactant | 5-amino-1H-imidazole-4-carbonitrile | 2.16 g | NC1=C(N=CN1)C#N | C4H4N4
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 1.9 mL | ICC | C2H5I
solvent | tetrahydrofuran N,N-dimethylformamide | O1CCCC1.CN(C=O)C
product | 5-Amino-1-ethyl-1H-imidazole-4-carbonitrile | 0.60 g | NC1=C(N=CN1CC)C#N | C6H8N4
